US06906072B1
Example 190 1-[4-Cyano-4-(2-thienyl)-5-methylhexyl]-4-[2-(6-methoxymethyl-2-pyridyloxy)ethyl]piperazine
The titile compound was synthesized in accordance with Example 75 from 4-cyano-4-(2-thienyl)-5-methylhexyl iodide and 1-(2-(6-methoxymethyl-2-pyridyloxy)ethyl]piperazine. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(2-thienyl)-5-methylhexyl iodide | C(#N)C(CCCI)(C(C)C)C=1SC=CC1 | C12H16INS
reactant | 1-(2-(6-methoxymethyl-2-pyridyloxy)ethyl]piperazine | COCC1=CC=CC(=N1)OCCN1CCNCC1 | C13H21N3O2
product | 1-[4-Cyano-4-(2-thienyl)-5-methylhexyl]-4-[2-(6-methoxymethyl-2-pyridyloxy)ethyl]piperazine | C(#N)C(CCCN1CCN(CC1)CCOC1=NC(=CC=C1)COC)(C(C)C)C=1SC=CC1 | C25H36N4O2S
